US05910498
1-(3-amino-4,6-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
Ethyl 1-(3-amino-4,6-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (1 g) was added to 8 ml of acetic acid and 2 ml of hydrochloric acid. The solution was heated at reflux overnight. After cooling down, the solution was concentrated in vacua. Ethanol was added to the residue whereupon the solid was collected by filtration and washed with diethyl ether to give 830 mg of the title compound.

reactant | Ethyl 1-(3-amino-4,6-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1 g | NC=1C=C(C(=CC1F)F)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C18H12F4N2O3
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 1-(3-amino-4,6-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 830 mg | NC=1C=C(C(=CC1F)F)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C16H8F4N2O3
